US07642264B2
2-Iodo-6-methyl-4-(4-trifluoromethyl-phenyl)-pyridine
Alternatively the title compound was prepared from 2-bromo-6-methyl-4-(4-trifluoromethyl-phenyl)-pyridine (example A.48) (101.0 g, 320 mmol), sodium iodide (91.04 g, 608 mmol), copper(I) iodide (2.89 g, 5 mol %) and N,N′-dimethylethylenediamine (3.31 mL, 11 mol %) in dioxane (304 mL) according to the general procedure Ia to d preparation of iodides. Obtained as a light yellow solid (112.5 g, 100%). MS (ISP) 364.0 [(M+H)+]; mp 91-93° C.

reactant | 2-bromo-6-methyl-4-(4-trifluoromethyl-phenyl)-pyridine | 320 mmol, 101.0 g | BrC1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C13H9BrF3N
reactant | sodium iodide | 608 mmol, 91.04 g | [I-].[Na+]
reactant | N,N′-dimethylethylenediamine | 3.31 mL | CNCCNC | C4H12N2
solvent | dioxane | 304 mL | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 2.89 g | [Cu]I
product | 2-Iodo-6-methyl-4-(4-trifluoromethyl-phenyl)-pyridine | IC1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C13H9F3IN
